US08877744B2
b) (R)-5-[5-(5-Chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione
In a manner analogous to that described in Example 2b), the reaction of (R)-5-[5-(5-chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (35 mg, 77 μmol) with Lawesson's reagent (34 mg, 84 μmol) yielded the title compound in quantitative yield as a white powder. MS (ISP): m/z=473.0 [M+H]+.

reactant | (R)-5-[5-(5-chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 77 μmol, 35 mg | ClC=1C=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=O)C)F)F)C1 | C21H17ClF4N2O3
reactant | Lawesson's reagent | 84 μmol, 34 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | (R)-5-[5-(5-Chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | quantitative yield | ClC=1C=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=S)C)F)F)C1 | C21H17ClF4N2O2S
